US08404836B2
2.4 g (107 mmol) of lithium borohydride is added in portions to a solution of 9.7 g (36 mmol) of [3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate in 100 ml of tetrahydrofuran. The reaction mixture is stirred at 60° C. for 1.5 h and then it is poured into 500 ml of ice and extracted with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. 8.6 g (99%) of 2-[3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol is obtained in the form of a colorless oil.

reactant | lithium borohydride | 107 mmol, 2.4 g | [BH4-].[Li+]
reactant | [3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-methyl acetate | 36 mmol, 9.7 g | C(C)(=O)OCC1=CC(=C(C=C1)OCOCCOC)F | C13H17FO5
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol | 8.6 g, 99% | FC=1C=C(C=CC1OCOCCOC)CCO | C12H17FO4
